US04960766
1N-Hydrochloric acid (3.9 ml) was added to a solution of 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate dihydrate (syn isomer) (2 g) in water (50 ml). The resultant aqueous solution was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4carboxylate hydrochloride (syn isomer) (2.1 g).

reactant | Hydrochloric acid | 3.9 ml | Cl | ClH
reactant | 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate dihydrate | 2 g | O.O.NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC(F)F
solvent | water | 50 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4carboxylate hydrochloride | 2.1 g | Cl.NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC(F)F | InChI=1S/C18H17F2N7O5S2.ClH/c1-25-3-2-4-26(25)5-8-6-33-15-11(14(29)27(15)12(8)16(30)31)23-13(28)10(24-32-17(19)20)9-7-34-18(21)22-9;/h2-4,7,11,15,17H,5-6H2,1H3,(H3-,21,22,23,28,30,31);1H/t11-,15-;/m1./s1
